US06320051B1
e) 2-{2-[1-(3,4-Dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamino}-1H-quinolin-4-one
A mixture of 2-[1-(3,4-dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamine (284 mg, 1 mmol), 2-chloro-1H-quinolin-4-one (184 mg, 1.03 mmol) and diisopropylethylamine (0.18 mL, 1.03 mmol) was heated at 110° C. After 56 h the mixture was cooled and the residue chromatographed over silica gel eluting with dichloromethane and increasing amounts of methanol containing 10% concentrated aqueous ammonia to yield the title compound as a pink foam. δH (CD3OD) 1.59-1.69 (1H, m), 1.83-2.10 (2H, m), 2.21-2.42 (1H, m), 2.90-3.15 (4H, m), 3.67 (2H, s), 5.55-5.64 (1H, s), 5.66 (1H, s), 5.72-5.87 (1H, m), 7.18-7.58 (6H, m), 8.10 (1H, d, J=6.67 Hz); MS (ES+) 426 (100%) MH+.

reactant | 2-[1-(3,4-dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamine | 1 mmol, 284 mg | ClC=1C=C(CN2C(CC=CC2)CCN)C=CC1Cl | C14H18Cl2N2
reactant | 2-chloro-1H-quinolin-4-one | 1.03 mmol, 184 mg | ClC=1NC2=CC=CC=C2C(C1)=O | C9H6ClNO
reactant | diisopropylethylamine | 1.03 mmol, 0.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-{2-[1-(3,4-Dichlorobenzyl)-1,2,3,6-tetrahydropyridin-2-yl]ethylamino}-1H-quinolin-4-one | ClC=1C=C(CN2C(CC=CC2)CCNC=2NC3=CC=CC=C3C(C2)=O)C=CC1Cl | C23H23Cl2N3O
